Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / ampicillin / iodine / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ retired ___, from ___, DM2, PPM (? for 
bradycardia), afib on warfarin presenting with visual 
hallucinations. Pt's son, ___, is at bedside, and initially 
attempts to provide the history while the patient considers her
answers. I explained to him that it is important for me to here 
the patient's answers first, and that I would then ask him to 
add any clarifying points. Pt explained that in the early 
morning hours of the day of presentation, around 3:40 am, she 
awoke to go use the bathroom. She then saw two children, around 
___ years old, who spoke to her. She went to the bathroom, and 
the children
were gone when she returned. She denies any command 
hallucinations, and did not feel frightened or disturbed by 
these visions. She experienced a similar episode in ___, for 
which she underwent extensive evaluation at ___, including MRI. 
These records have been obtained, and notably describe "some 
concern
regarding on-off speech difficulities and episodes of facial 
droop and dysarthria.... MRI/MRI showed L pontine flair 
hyperintensity suggesting micro bleed but no abnormalities on 
DWI. She also had subtle RUE extensor weakness as well as poor 
memory and attention.... Symptoms improved during 
hospitalization. She refused ASA 325 mg in ED.... Full stroke 
workup was performed and stroke lab was remarkable for A1c 6.9. 
TTE showed LVEF of 65% and grade II diastolic dysfunction with 
negative bubble study.... Risk and benefits of continuing
Coumadin was discussed with the patient and her son."

In the ED, initial vitals:  97.2 70 131/80 18 97% RA FSG 180
Labs were significant for INR 2.6, PTT 41.8, negative UA, BUN 26 
with Cr 0.9, unremarkable LFTs/CBC, negative tox screens. 
Imaging showed no ICH on CT head, Mild bibasilar atelectasis w/ 
no pneumonia on CXR. Vitals prior to transfer: 97.2 70 120/69 18 
98% RA  

On the floor, patient symptoms such as confusion and 
hallucinations had resolved. 
 
Past Medical History:
IDDM
Chronic CHF
afib on Coumadin
chronic diarrhea
 
Social History:
___
Family History:
Father passed at age ___ from lung cancer; he was a heavy smoker.
Mother passed at age ___ from complications of diabetes.
 
Physical Exam:
VS: T 97.2 BP: 124/66 HR 70 RR 17 O2 100% RA
GEN:  Very pleasant, cheerful and appropriate, interactive 
elderly female, alert and oriented x3, comfortable, no acute 
distress
HEENT:  PERRL, anicteric, conjunctiva pink, oropharynx without 
lesion or exudate, moist mucus membranes
LYMPH:  no anterior/posterior cervical, supraclavicular
adenopathy
CARDIOVASCULAR:  PMI nondisplaced, regular rate and rhythm 
without murmurs, rubs, or gallops
LUNGS:  clear to auscultation bilaterally without rhonchi, 
wheezes, or crackles
ABDOMEN:  soft, nontender, without rebounding or guarding, 
nondistended with normal active bowel sounds, no hepatomegaly 
appreciated
EXTREMITIES:  no clubbing, cyanosis. Trace bilateral pitting 
edema
SKIN:  no rashes, petechia, lesions, or echymoses; warm to 
palpation
NEURO:  Mini-cog: unable to draw clock or recall ___ objects. 
A&Ox3, able to name president. Cites months of the year forward, 
single error in reverse (missed month). Cranial nerves II-XII 
intact. Strength ___ in upper and lower extremities bilaterally 
- L shoulder adduction very modestly decreased ___ recent PPM 
placement. No pronator drift. Normal finger-nose. Normal rapid 
alternating movements. Reflexes 2+ biceps bilaterally. Sensation 
is intact in all 4 extremities. Gait is WNL. 
PSYCH:  normal mood and affect

 
Pertinent Results:
Laboratory analysis:
___ 06:00AM BLOOD WBC-5.7 RBC-4.94 Hgb-13.8 Hct-42.5 MCV-86 
MCH-27.9 MCHC-32.5 RDW-13.8 RDWSD-42.8 Plt ___
___ 06:00AM BLOOD Neuts-50.8 ___ Monos-8.1 Eos-3.2 
Baso-0.9 Im ___ AbsNeut-2.87 AbsLymp-2.07 AbsMono-0.46 
AbsEos-0.18 AbsBaso-0.05
___ 06:27AM BLOOD ___ PTT-41.8* ___
___ 06:00AM BLOOD Glucose-184* UreaN-26* Creat-0.9 Na-140 
K-3.5 Cl-103 HCO3-26 AnGap-15
___ 06:00AM BLOOD ALT-24 AST-31 AlkPhos-93 TotBili-0.4
___ 06:00AM BLOOD Albumin-4.3 Calcium-9.8 Phos-4.0 Mg-1.7
___ 06:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Urinalysis:
___ 08:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 08:00AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 08:00AM URINE RBC-2 WBC-4 Bacteri-NONE Yeast-NONE Epi-6 
TransE-1

Imaging:

___ CXR:
FINDINGS:  
A left dual lead pacemaker is present with tips terminating in 
the right 
atrium and right ventricle as expected.  Heart size is top 
normal.  
Mediastinal and hilar contours are within normal limits.  There 
is no pleural effusion or pneumothorax.  Lungs are well-expanded 
without focal consolidation concerning for pneumonia.  Mild 
bibasilar atelectasis is present.  Pulmonary vasculature is 
within normal limits.  The upper abdomen is unremarkable. 
  
IMPRESSION:  
Mild bibasilar atelectasis.  No pneumonia. 

___ CT head:
 
FINDINGS:  
There is no evidence of infarction, hemorrhage, edema, or mass. 
There is 
prominence of the ventricles and sulci suggestive of 
involutional changes. 
There is no evidence of fracture.  Minimal mucosal thickening of 
the right 
maxillary sinus is present.  Partial opacification and bilateral 
mastoid air cells is also noted.  The visualized portion of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are otherwise clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION: 
1. No acute intracranial hemorrhage. 

 
Brief Hospital Course:
Ms. ___ is an ___ retired ___, from ___, DM2, 
PPM (?for bradycardia), afib on warfarin presenting with a 
single episode of visual hallucinations, which have resolved. 

# Visual hallucinations: Patient has had repeated episodes of 
visual hallucinations in the previous ___ years; hallucinations 
are without commands, and are not disturbing to the patient. She 
has had work-up at various locations, including ___ and other 
area hospitals. ___ records were obtained and reviewed and MRI 
there showed "L pontine flair hyperintensity suggesting micro 
bleed but no abnormalities on DWI." MRA was normal. This current 
episode was preceded by a possible sinus infection and Nyquil 
use. CT head in ED was negative for acute intracranial process 
and infectious w/u including urinalysis and CXR were negative. 
Patient's son expressed repeated concern that her symptoms were 
due to acute catastrophic cerebrovascular accident. However, 
initial CT scan, physical exam, and resolution of patient's 
symptoms, were not consistent with an acute CVA. Other 
etiologies, such as medication effect, seizure, frontotemporal 
dementia, or TIA are possibilities. Given her recent pace-___ 
placement in the last 4 weeks, the risk of an MRI exceeded its 
benefit. Patient and son requested discharge on the day of 
admission. We encouraged the patient to obtain a neurology 
referral from her PCP and continue outpatient work-up for her 
symptoms. Given her (and her son's) grave concern regarding 
massive intracranial hemorrhage, she was provided with a 
prescription for vitamin K on her request with the explicit 
agreement that she present to the nearest ED should she decide 
to use it. Given her medical stability and resolution of 
symptoms, she was thus discharged home per her wishes. Please 
see initial admission note in OMR for full detail of discussion 
with family and patient. 

CHRONIC ISSUES:
# Atrial fibrillation: CHADS=3 or 5, depending on whether she 
has had prior CVA. Will continue warfarin and diltiazem. 
# DM2: Continue home lantus and sliding scale.
# Chronic diastolic CHF: Continue home furosemide. 
# Chronic diarrhea: continue Imodium as needed

TRANSITIONAL ISSUES:
- Should f/u with neurology for full cognitive evaluation and 
hallucination work-up 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 2.5 mg PO DAILY16 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Furosemide 40 mg PO DAILY 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN SOB 
6. Multivitamins 1 TAB PO DAILY 
7. Creon 12 1 CAP PO TID W/MEALS 
8. LOPERamide 2 mg PO QID:PRN diarrhea 
9. Glargine 40 Units Bedtime
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. Creon 12 1 CAP PO TID W/MEALS 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
5. Furosemide 40 mg PO DAILY 
6. Glargine 40 Units Bedtime
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. LOPERamide 2 mg PO QID:PRN diarrhea 
9. Multivitamins 1 TAB PO DAILY 
10. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN SOB 
11. Warfarin 2.5 mg PO DAILY16 
12. Phytonadione 5 mg PO ONCE Duration: 1 Dose 
RX *phytonadione [Mephyton] 5 mg 1 tablet(s) by mouth once Disp 
#*5 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: hallucinations

Secondary diagnosis: chronic congestive heart failure, atrial 
fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were admitted after experiencing an episode 
of hallucinations and confusion at home. You had a CT scan of 
your head, which did not show any acute process and did not show 
any bleeding. You also had an infection workup, which was also 
negative. Your symptoms resolved during your brief stay in the 
hospital. We do not believe this episode was caused by a stroke, 
such as an ischemic or hemorrhagic stroke. We believe your brain 
likely is susceptible to small insults and that you are more 
prone to events like this. For further work-up, please contact 
your primary care physician for ___ referral to neurology. 

Additionally, we would recommend avoiding medications such as 
Benadryl, or Nyquil (it contains Benadryl), or any over the 
counter medications that include ___ in it, such as Advil ___ or 
Tylenol ___. These can also make you more prone to confusion.

Please take care,

Your ___ Team
 
Followup Instructions:
___